US08497288B2
b) 2-Chloro-N-{(6S,7aR)-3-oxo-2-[4-(2,2,2-trifluoro-ethoxy)-phenyl]-hexahydro-pyrrolo[1,2-c]imidazol-6-yl}-benzenesulfonamide
To a solution of (6R,7aR)-6-Bromo-2-[4-(2,2,2-trifluoro-ethoxy)-phenyl]-hexahydro-pyrrolo[1,2-c]imidazol-3-one (50 mg, 0.130 mmol) in DMF (3 mL) in a sealed tube, was added K2CO3 (27.3 mg, 0.197 mmol) and 2-Chloro-benzenesulfonamide (50.5 mg, 0.263 mmol) and heated to 80° C. for 12 h. All volatiles were removed under reduced pressure and the residue was extracted with ethyl acetate. The organic layer was separated, washed with water and brine, dried over Na2SO4 and concentrated. The residue was purified through biotage column chromatography (elution with 40% ethyl acetate in hexane) to afford 17 mg (26.5%) of the title compound as a white solid. LC-MS: 489 [M+1]+.

reactant | (6R,7aR)-6-Bromo-2-[4-(2,2,2-trifluoro-ethoxy)-phenyl]-hexahydro-pyrrolo[1,2-c]imidazol-3-one | 0.130 mmol, 50 mg | Br[C@@H]1C[C@H]2N(C(N(C2)C2=CC=C(C=C2)OCC(F)(F)F)=O)C1 | C14H14BrF3N2O2
reactant | K2CO3 | 0.197 mmol, 27.3 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-Chloro-benzenesulfonamide | 0.263 mmol, 50.5 mg | ClC1=C(C=CC=C1)S(=O)(=O)N | C6H6ClNO2S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-N-{(6S,7aR)-3-oxo-2-[4-(2,2,2-trifluoro-ethoxy)-phenyl]-hexahydro-pyrrolo[1,2-c]imidazol-6-yl}-benzenesulfonamide | 17 mg, 26.5% | ClC1=C(C=CC=C1)S(=O)(=O)N[C@H]1C[C@H]2N(C(N(C2)C2=CC=C(C=C2)OCC(F)(F)F)=O)C1 | C20H19ClF3N3O4S
